US05082847
Proceeding as in part A above, but replacing isobutyl 4-piperidylcarbamate with cyclopropylmethyl 4-piperidylcarbamate, and replacing 5-(3-chloropropoxy)-3,4-dihydrocarbostyril with 5-(2-chloroethoxy)-3,4-dihydro-8-methoxycarbostyril there was obtained 8-methoxy-3,4-dihydro-5-[2-(4-((cyclopropylmethoxy)carbonylamino)-1-piperidyl)ethoxy]carbostyril hydrochloride, m.p. 218°-220° C.

reactant | cyclopropylmethyl 4-piperidylcarbamate | N1CCC(CC1)NC(OCC1CC1)=O | C10H18N2O2
reactant | 5-(2-chloroethoxy)-3,4-dihydro-8-methoxycarbostyril | ClCCOC1=C2CCC(NC2=C(C=C1)OC)=O | C12H14ClNO3
product | 8-methoxy-3,4-dihydro-5-[2-(4-((cyclopropylmethoxy)carbonylamino)-1-piperidyl)ethoxy]carbostyril hydrochloride | Cl.COC=1C=CC(=C2CCC(NC12)=O)OCCN1CCC(CC1)NC(=O)OCC1CC1 | InChI=1S/C22H31N3O5.ClH/c1-28-19-6-5-18(17-4-7-20(26)24-21(17)19)29-13-12-25-10-8-16(9-11-25)23-22(27)30-14-15-2-3-15;/h5-6,15-16H,2-4,7-14H2,1H3,(H,23,27)(H,24,26);1H
